US06921759B2
Step 2: Preparation of 2-[(vinylsulfonyl)amino]ethanaminium chloride
A solution of tert-butyl 2-[(vinylsulfonyl)amino]ethylcarbamate (1.60 g, 6.39 mmol) in EtOAc (55 ml) at 0 C, was saturated with HCl gas and then stirred for 1 hr. The solvent was evaporated in vacuo to afford the product as a viscous oil.

reactant | tert-butyl 2-[(vinylsulfonyl)amino]ethylcarbamate | 6.39 mmol, 1.60 g | C(=C)S(=O)(=O)NCCNC(OC(C)(C)C)=O | C9H18N2O4S
reactant | HCl | Cl | ClH
solvent | EtOAc | 55 ml | CCOC(=O)C | C4H8O2
product | 2-[(vinylsulfonyl)amino]ethanaminium chloride | [Cl-].C(=C)S(=O)(=O)NCC[NH3+] | InChI=1S/C4H10N2O2S.ClH/c1-2-9(7,8)6-4-3-5;/h2,6H,1,3-5H2;1H
